* =====================================================================
* muon3_frontend.lib - Muon3 analog front-end ngspice models (2026-07-11 baseline)
* Updated for onsemi MicroFC-30035 SiPM (~30 V bias class)
* DC-coupled OPA858 TIA + dual fast comparators (TLV3601-class)
* Charge injection hook and protection network
* =====================================================================

* ---------------------------------------------------------------------
* MicroFC-30035 behavioral SiPM (anode-readout current pulse)
* Typical params (tune from datasheet + measured single-p.e. data):
*   NPE   = fired microcells (photoelectrons + crosstalk + afterpulses)
*   QPE   = charge per p.e.  (gain ~3e6 * e ≈ 480 fC at 3 V overvoltage)
*   TAUR  = rise (avalanche + parasitics) ~0.8-1.5 ns
*   TAUD  = decay (Rq * Cpixel effective) ~10-20 ns typical
*   CT    = terminal capacitance (whole device) ~ 300-500 pF range for 3x3mm
*   IDARK = primary dark count rate current equivalent (0.1-1 uA @ room temp)
* Terminals: A (anode to TIA summing node), K (cathode to filtered HV)
* ---------------------------------------------------------------------
.subckt MICROFC_30035 A K NPE=20 QPE=480f TAUR=1.0n TAUD=15n T0=100n CT=400p IDC=0.5u
* Double exponential current into anode (negative-going voltage at TIA)
Bpulse K A I = (time > {T0}) ? {NPE*QPE/(TAUD-TAUR)} * ( exp(-(time-{T0})/{TAUD}) - exp(-(time-{T0})/{TAUR}) ) : 0
Ct A K {CT}
Idark K A {IDC}
.ends MICROFC_30035

* ---------------------------------------------------------------------
* OPA858 behavioral macromodel (single 3.3 V or clean 5 V analog rail)
* Keep parameters close to the validated prior model but allow VDD param.
* GBW 5.5 GHz decompensated, high SR.
* Pins: INP INN OUT VDD VSS
* ---------------------------------------------------------------------
.subckt OPA858 INP INN OUT VDD VSS
Cinp INP VSS 0.62p
Cinn INN VSS 0.62p
Cind INP INN 0.2p
Vnoise INP INPX dc 0
Gm 0 P1 INPX INN 1m
Rp1 P1 0 4.5MEG
Cp1 P1 0 29.1f
Dwu1 P1 PCLH DWU
Dwu2 PCLL P1 DWU
Vclh PCLH 0 5
Vcll PCLL 0 -1.7
.model DWU D(IS=1u RS=5 N=1)
Gp2 0 P2 P1 0 1m
Rp2 P2 0 1k
Cp2 P2 0 45.5f
Bclamp CL 0 V = ( v(P2) > (v(VDD)-0.15) ? (v(VDD)-0.15) : ( v(P2) < (v(VSS)+0.15) ? (v(VSS)+0.15) : v(P2) ) )
Bsr 0 SL I = ( (v(CL)-v(SL)) > 0.02 ? 40u : ( (v(CL)-v(SL)) < -0.02 ? -40u : (v(CL)-v(SL))*2m ) )
Csl SL 0 20f
Rsl SL 0 1G
Eout OB 0 SL 0 1
Rout OB OUT 10
.ends OPA858

* ---------------------------------------------------------------------
* Fast push-pull comparator (TLV3601 / similar 2.5-4 ns class)
* Hysteresis ~6-10 mV modeled. Quiescent output high.
* Pins: INP INN OUT VDD VSS
* ---------------------------------------------------------------------
.subckt TLV3601 INP INN OUT VDD VSS
* Simple transconductance + output stage with hysteresis
.param HYST=8m
Gcmp 0 PCMP INP INN 1m
Rp PCMP 0 10k
Ch PCMP 0 5p
* Hysteresis source (small differential offset)
Eoff OFF 0 VALUE={HYST * (v(OUT) > 1.65 ? 1 : -1)}
* Output buffer with rail clamps and delay approximation
Bout OUTI 0 V = (v(PCMP) + v(OFF) > 0 ? (v(VDD)-0.2) : 0.2)
* Propagation delay RC
Rpd OUTI OUTD 100
Cpd OUTD 0 30p
Eout OUT 0 OUTD 0 1
Rout OUT VSS 50
.ends TLV3601

* ---------------------------------------------------------------------
* Simple BAV99 dual clamp model (low C version)
* ---------------------------------------------------------------------
.model BAV99_CLAMP D (IS=1n CJO=1.2p RS=1.5 BV=30)

* ---------------------------------------------------------------------
* Basic charge injection network (per-channel, from DAC or fast pulse)
* Use for calibration: a small capacitor + switch or voltage step.
* Terminals: INJ (drive node), TIA_IN (summing node)
* Example usage: step source on INJ through 0.5-5 pF Cinj.
* ---------------------------------------------------------------------
.subckt CHARGE_INJ INJ TIA_IN CINJ=1.0p
Cinj INJ TIA_IN {CINJ}
.ends CHARGE_INJ
