* =====================================================================
* muon3_frontend.lib - Muon3 analog front-end ngspice models
* Rev 2 (2026-07-11): parameters corrected against the SensL/onsemi
* C-Series datasheet (MICROC-SERIES-D). Key changes from rev 1:
*   - CT 400p -> 850p (datasheet anode-cathode capacitance, 30035 @2.5V OV)
*   - TAUD 15n -> 82n (datasheet microcell recharge time constant, 35 um)
*   - QPE 480 fC is at 2.5 V OV (gain 3e6), not 3.0 V OV
*   - IDC default from 30035 dark current (154-443 nA typ-max @2.5V OV)
*   - TLV3601 hysteresis reference derived from VDD, not hardcoded 1.65 V
*   - CHARGE_INJ given an internal bleed so the INJ node is never floating
* DC-coupled OPA858 TIA + dual fast comparators (TLV3601-class)
* =====================================================================

* ---------------------------------------------------------------------
* MicroFC-30035 behavioral SiPM (anode-readout current pulse)
* Datasheet anchors (C-Series, 2.5 V OV, 21 degC):
*   Vbr 24.2-24.7 V, gain 3e6 (QPE = 480 fC), Canode-cathode = 850 pF,
*   microcell recharge tau = 82 ns, DCR 300-860 kHz, crosstalk 7 %,
*   afterpulsing 0.2 %, PDE(420 nm) 31 %, gain slope -0.8 %/degC,
*   dVbr/dT = 21.5 mV/degC. Max continuous anode current 15 mA (SMT).
* NPE here means FIRED MICROCELLS (include crosstalk/afterpulse factors
* externally: NPE_eff ~ NPE_true * 1.07 at 2.5 V OV).
* Pulse: double exponential, rise ~1 ns, decay dominated by microcell
* recharge (82 ns). Total injected charge = NPE*QPE exactly.
* Terminals: A (anode to TIA summing node), K (cathode to filtered HV)
* ---------------------------------------------------------------------
.subckt MICROFC_30035 A K NPE=20 QPE=480f TAUR=1.0n TAUD=82n T0=100n CT=850p IDC=0.3u
Bpulse K A I = (time > {T0}) ? {NPE*QPE/(TAUD-TAUR)} * ( exp(-(time-{T0})/{TAUD}) - exp(-(time-{T0})/{TAUR}) ) : 0
Ct A K {CT}
Idark K A {IDC}
.ends MICROFC_30035

* ---------------------------------------------------------------------
* OPA858 behavioral macromodel (single 3.3 V or clean 5 V analog rail)
* GBW 5.5 GHz decompensated (min stable noise gain 7), high SR.
* NOTE: does NOT model the input common-mode limit (VDD-1.4 V);
* check VBOT against the rail by hand (1.8 V needs VDD >= 3.2 V).
* Pins: INP INN OUT VDD VSS
* ---------------------------------------------------------------------
.subckt OPA858 INP INN OUT VDD VSS
Cinp INP VSS 0.62p
Cinn INN VSS 0.62p
Cind INP INN 0.2p
Vnoise INP INPX dc 0
Gm 0 P1 INPX INN 1m
Rp1 P1 0 4.5MEG
Cp1 P1 0 29.1f
Dwu1 P1 PCLH DWU
Dwu2 PCLL P1 DWU
Vclh PCLH 0 5
Vcll PCLL 0 -1.7
.model DWU D(IS=1u RS=5 N=1)
Gp2 0 P2 P1 0 1m
Rp2 P2 0 1k
Cp2 P2 0 45.5f
Bclamp CL 0 V = ( v(P2) > (v(VDD)-0.15) ? (v(VDD)-0.15) : ( v(P2) < (v(VSS)+0.15) ? (v(VSS)+0.15) : v(P2) ) )
Bsr 0 SL I = ( (v(CL)-v(SL)) > 0.02 ? 40u : ( (v(CL)-v(SL)) < -0.02 ? -40u : (v(CL)-v(SL))*2m ) )
Csl SL 0 20f
Rsl SL 0 1G
Eout OB 0 SL 0 1
Rout OB OUT 10
.ends OPA858

* ---------------------------------------------------------------------
* Fast push-pull comparator (TLV3601-class: ~2.5 ns prop, 6 mV hyst)
* Hysteresis referenced to VDD/2 so the model tracks the supply.
* Pins: INP INN OUT VDD VSS
* ---------------------------------------------------------------------
.subckt TLV3601 INP INN OUT VDD VSS
.param HYST=6m
Gcmp 0 PCMP INP INN 1m
Rp PCMP 0 10k
Ch PCMP 0 5p
Eoff OFF 0 VALUE={HYST * (v(OUT) > v(VDD)/2 ? 1 : -1)}
Bout OUTI 0 V = (v(PCMP) + v(OFF) > 0 ? (v(VDD)-0.2) : 0.2)
* Propagation delay approximation (~2.5-3 ns)
Rpd OUTI OUTD 100
Cpd OUTD 0 30p
Eout OUT 0 OUTD 0 1
Rout OUT VSS 50
.ends TLV3601

* ---------------------------------------------------------------------
* Simple BAV99 dual clamp model (low C version)
* ---------------------------------------------------------------------
.model BAV99_CLAMP D (IS=1n CJO=1.2p RS=1.5 BV=30)

* ---------------------------------------------------------------------
* Charge injection network (per-channel calibration hook).
* Q = CINJ * Vstep into the summing node. 1.5 pF x 1 V = 1.5 pC ~ 3 p.e.
* Internal bleed keeps INJ from floating when no source is attached.
* Terminals: INJ (drive node), TIA_IN (summing node)
* ---------------------------------------------------------------------
.subckt CHARGE_INJ INJ TIA_IN CINJ=1.0p
Cinj INJ TIA_IN {CINJ}
Rbleed INJ 0 10MEG
.ends CHARGE_INJ
